US08026260B2
Intermediate XV: tert-butyl (3-{[4-(aminomethyl)benzoyl]amino}-1-phenyl-1H-pyrazol-4-yl)carbamate (Scheme 5)
A solution of benzyl {4-[({4-[(tert-butoxycarbonyl)amino]-1-phenyl-1H-pyrazol-3-yl}amino)carbonyl]benzyl}carbamate (0.75 g, 1.38 mmol) in methanol (150 mL) was treated with palladium hydroxide on carbon (75 mg) and placed under a hydrogen atmosphere for 1.5 hours. The reaction was filtered, evaporated in vacuo and purified by flash column chromatography (1-18% methanol/methylene chloride) to give title compound as an off-white solid. 1H NMR (DMSO-d6) δ 8.37 (s, 1H), 7.99 (d, J=8.2 Hz, 2H), 7.71 (d, J=7.9 Hz, 2H), 7.50 (d, J=8.2 Hz, 2H), 7.45 (t, J=7.6 Hz, 2H), 7.27 (t, J=7.3 Hz, 1H), 3.90 (s, 2H), 1.50 (s, 9H); ESIMS calcd 408.2 (M++H), found 408.1 (M++H).

reactant | benzyl {4-[({4-[(tert-butoxycarbonyl)amino]-1-phenyl-1H-pyrazol-3-yl}amino)carbonyl]benzyl}carbamate | 1.38 mmol, 0.75 g | C(C)(C)(C)OC(=O)NC=1C(=NN(C1)C1=CC=CC=C1)NC(=O)C1=CC=C(CNC(OCC2=CC=CC=C2)=O)C=C1 | C30H31N5O5
solvent | methanol | 150 mL | CO | CH4O
catalyst | palladium hydroxide on carbon | 75 mg | [OH-].[OH-].[Pd+2]
product | tert-butyl (3-{[4-(aminomethyl)benzoyl]amino}-1-phenyl-1H-pyrazol-4-yl)carbamate | NCC1=CC=C(C(=O)NC2=NN(C=C2NC(OC(C)(C)C)=O)C2=CC=CC=C2)C=C1 | C22H25N5O3
